US04935414
55 g of 4-difluoromethoxybenzhydrol are dissolved in 440 ml of chloroform, the mixture is cooled to 0° C. and 17.5 ml of thionyl chloride in 220 ml of chloroform are added. The mixture is allowed to stand for 24 hours at room temperature and excess thionyl chloride and chloroform are removed by distillation. 47 g (80%) of 4-difluoromethoxybenzhydryl chloride are obtained as a yellow oil.

reactant | 4-difluoromethoxybenzhydrol | 55 g | FC(OC1=CC=C(C(C2=CC=CC=C2)O)C=C1)F | C14H12F2O2
reactant | thionyl chloride | 17.5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 440 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 220 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-difluoromethoxybenzhydryl chloride | 47 g, 80% | FC(OC1=CC=C(C(C2=CC=CC=C2)Cl)C=C1)F | C14H11ClF2O
